US05990102
a. 4-(3,4-Dimethoxyphenylthio)azetidin-2-one
Sodium (0.9 g, 39 mmol) was dissolved in ethanol (150 ml) and 3,4-dimethoxythiophenol (5.9 g, 35 mmol) added dropwise over 20 minutes keeping the temperature between 20° C.-25° C. whilst bubbling nitrogen through the mixture. After 15 minutes, the reaction was cooled to 5° C. and a solution of 4-acetoxyazetidin-2-one (4.3 g, 33 mmol) in ethanol (50 ml) was added dropwise over 15 minutes whilst maintaining the temperature at 5° C. The mixture was stirred at room temperature for 60 minutes and evaporated to dryness under reduced pressure. Water (400 ml) was added, the mixture extracted with dichloromethane (2×300 ml), the extracts dried (MgSO4) and evaporated under reduced pressure to an oil. The oil was cooled to -20° C. and titurated with ether (400 ml) to give a white solid which was isolated by filtration (4.1 g, 52%) m.p. 145-6° C. 1H NMR δ (CDCl3) 2.85 (1H, m, H3a), 3.31 (1H, m, H3b), 3.88 (3H, s, O--CH3), 3.89 (3H, s, O--CH3), 4.92 (1H, dd, J=4.92, 2.30 Hz, H4), 6.30 (1H, br. singlet, N--H), 6.85 (1H, d, J=8.30 Hz, Ph--H), 7.00 (1H, d, J=2.04 Hz, Ph--H), 7.09 (1H, dd, J=8.25, 2.06 Hz, Ph--H).

reactant | Sodium | 39 mmol, 0.9 g | [Na] | Na
reactant | 3,4-dimethoxythiophenol | 35 mmol, 5.9 g | COC=1C=C(C=CC1OC)S | C8H10O2S
reactant | 4-acetoxyazetidin-2-one | 33 mmol, 4.3 g | C(C)(=O)OC1CC(N1)=O | C5H7NO3
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(3,4-Dimethoxyphenylthio)azetidin-2-one | COC=1C=C(C=CC1OC)SC1CC(N1)=O | C11H13NO3S
